US07709481B2
500 mg 2-Chloro-4-(4-methyl-2-piperidin-4-yl-thiazol-5-ylmethoxy)-benzonitrile was dissolved in 20 ml dichloromethane. 0.25 ml N,N-Diisopropylethylamine and 50 mg dimethylaminopyridine were added. Then 0.26 ml trifluoromethanesulfonylchloride were added to the ice cooled reaction mixture. The cooling bath was removed and the reaction mixture stirred at room temperature overnight. The reaction mixture was washed with 10 ml saturated NaHCO3 solution and then dried over MgSO4. The solvent was removed in Vacuo. The resulting crude material was purified by reversed phase HPLC to obtain 350 mg 2-Chloro-4-[4-methyl-2-(1-trifluoromethanesulfonyl-piperidin-4-yl)-thiazol-5-ylmethoxy]-benzonitrile as amorphous solid.

reactant | 2-Chloro-4-(4-methyl-2-piperidin-4-yl-thiazol-5-ylmethoxy)-benzonitrile | 500 mg | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1CCNCC1)C | C17H18ClN3OS
reactant | N,N-Diisopropylethylamine | 0.25 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trifluoromethanesulfonylchloride | 0.26 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Chloro-4-[4-methyl-2-(1-trifluoromethanesulfonyl-piperidin-4-yl)-thiazol-5-ylmethoxy]-benzonitrile | 350 mg | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1CCN(CC1)S(=O)(=O)C(F)(F)F)C | C18H17ClF3N3O3S2
